US07214673B2
Carbonic acid 4-methoxycarbonyloxy-but-2-enyl ester methyl ester
Combine methyl chloroformate (7.04 g, 80.0 mmol) in THF (70 mL) and add dropwise to a ice-water cold solution of 2-buten-1,4-diol (majority Z form) (19.7 g, 208 mmol) and pyridine (16.5 g, 208 mmol) in THF (150 mL). Warm the mixture to room temperature and stir for 20 hours. Remove the pyridine salt by filtration and concentrate the filtrate to a residue. Dissolve the residue with CH2Cl2 and wash sequentially with 1 N HCl and brine. Dry the organic layer over Na2SO4 and concentrate the solvent in vacuo to give a residue. Purification by chromatography using hexanes: EtOAc=12:1 as the eluents give the title compound: 1H NMR (CDCl3): δ5.82–5.79 (m, 2H), 4.75 (d, J=4.8 Hz, 4H), 3.79 (s, 6H).

reactant | methyl chloroformate | 80.0 mmol, 7.04 g | ClC(=O)OC | C2H3ClO2
reactant | 2-buten-1,4-diol | 208 mmol, 19.7 g | C(C=CCO)O | C4H8O2
reactant | pyridine | 208 mmol, 16.5 g | N1=CC=CC=C1 | C5H5N
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Carbonic acid 4-methoxycarbonyloxy-but-2-enyl ester methyl ester | COC(OCC=CCOC(=O)OC)=O | C8H12O6
